US07001917B2
Step 1. 2-{4-[5-Phenyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol
A mixture of 2-(4-hydrazinophenyl)ethanol hydrochloride (J. Med. Chem., 1999, 42, 2504, 202 mg, 1.07 mmol) and benzoyl-1,1,1-trifluoroacetone (278 mg, 1.28 mmol) in ethanol (13 mL) was heated under reflux overnight. After removal of the solvent, the resulting residue was partitioned between dichloromethane and water. Organic phase was washed with brine and dried (Na2SO4). After removal of the solvent, the crude product was purified by TLC with hexane/ethyl acetate (1:1) to afford 200 mg (56%) of the title compound as yellow solids: MS (ESI) m/z 333 [M+H]+, 1H-NMR (CDCl3) δ 7.36-7.20 (9H, m), 6.74 (1H, s), 3.86 (2H, br.s), 2.89 (2H, t, J=6.6 Hz).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | 1.07 mmol, 202 mg | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | benzoyl-1,1,1-trifluoroacetone | 1.28 mmol, 278 mg | C(C1=CC=CC=C1)(=O)CC(C(F)(F)F)=O | C10H7F3O2
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | 2-{4-[5-Phenyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol | 200 mg, 56% | C1(=CC=CC=C1)C1=CC(=NN1C1=CC=C(C=C1)CCO)C(F)(F)F | C18H15F3N2O
